US07288654B2
A suspension of methyl 3-bromo-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate (640 mg), 4-(2-butoxyethoxy)phenylboric acid (583 mg) and potassium carbonate (678 mg) in toluene (15 ml), ethanol (1.5 ml) and water (1.5 ml) was stirred for 30 minutes under an argon atmosphere. Tetrakis(triphenylphosphine)palladium (110 mg) was added thereto, and the mixture was heated at 115° C. for 6 hours under an argon atmosphere, which was allowed to cool. Water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1→hexane:ethyl acetate=4:1) to give methyl 3-[4-(2-butoxyethoxy)phenyl]-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate (740 mg) as a yellow oily material.

reactant | methyl 3-bromo-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate | 640 mg | BrC1=CC2=C(N(CCC(=C2)C(=O)OC)CC(C)C)N=C1 | C15H19BrN2O2
reactant | 4-(2-butoxyethoxy)phenylboric acid | 583 mg | C(CCC)OCCOC1=CC=C(C=C1)OB(O)O | C12H19BO5
reactant | potassium carbonate | 678 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 110 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-[4-(2-butoxyethoxy)phenyl]-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate | 740 mg | C(CCC)OCCOC1=CC=C(C=C1)C1=CC2=C(N(CCC(=C2)C(=O)OC)CC(C)C)N=C1 | C27H36N2O4
